US08980877B2
1 M HCl in Et2O (5 ml, 5 mmol) was added dropwise to a solution of (E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (260 mg, 0.55 mmol) in DCM (3 ml). After 1 h a white solid precipitated, which was filtered, washed with DCM, dried under vacuum and purified by preparative HPLC to give 180 mg of (±)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-hydroxy-acrylamide as its trifluoroacetic salt.

reactant | HCl | 1 M | Cl | ClH
reactant | Et2O | 5 mmol, 5 ml | CCOCC | C4H10O
reactant | (E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.55 mmol, 260 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C28H32N2O5
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | (±)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-hydroxy-acrylamide | 180 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C23H24N2O4
